US07737166B2
(3-Fluoro-2-methoxy-5-methylphenyl)-2-hydroxyimino-acetamide (I-27)
A N,N-dimethylformamide (30 ml) solution of 3-fluoro-2-methoxy-5-methylaniline (I-26) (4.31 g, 27.8 mmol) and concentrated hydrochloric acid (3.5 ml, 33.4 mmol) were added to a water (60 ml) suspension of trichloroacetaldehyde monohydrate (9.2 g, 55.6 mmol) and anhydrous magnesium sulfate (31.6 g, 222.4 mmol), followed by stirring at 90° C. for 30 minutes, then hydroxylamine hydrochloride (116 g, 166.8 mmol) was added, followed by stirring at the same temperature for 13 hours and a half. After cooling to room temperature, the reaction liquid was filtered through Celite, the filtrate was extracted three times with ethyl acetate, then the organic layer was washed twice with saturated brine, dried over anhydrous magnesium sulfate. After filtration and concentration under reduced pressure, the resulting residue was subjected to column chromatography, and the eluate with chloroform was concentrated under reduced pressure to obtain the entitled compound (596 mg, 10%) as a pale brown solid.

reactant | 3-fluoro-2-methoxy-5-methylaniline | 27.8 mmol, 4.31 g | FC=1C(=C(N)C=C(C1)C)OC | C8H10FNO
reactant | hydrochloric acid | 33.4 mmol, 3.5 ml | Cl | ClH
reactant | trichloroacetaldehyde monohydrate | 55.6 mmol, 9.2 g | O.ClC(C=O)(Cl)Cl
reactant | magnesium sulfate | 222.4 mmol, 31.6 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | hydroxylamine hydrochloride | 166.8 mmol, 116 g | Cl.NO
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 60 ml | O | H2O
product | (3-Fluoro-2-methoxy-5-methylphenyl)-2-hydroxyimino-acetamide | 596 mg, 10% | FC=1C(=C(C=C(C1)C)C(C(=O)N)=NO)OC | C10H11FN2O3
